US04640916
In 20 ml of ethyl acetate were dissolved 1.36 g of 2-(2-bromoethyl)-2H-1,4-benzothiazin-3(4H)-one and 1.8 g of 1-(4-fluorophenyl)piperazine. The solvent was evaporated off, and the residue was stirred at 110° C. for one hour. The reaction product was extracted with ethyl acetate, and the extract was washed with water and dried over MgSO4. The crystals obtained by evaporation of the solvent were recrystallized from methanol to give 2-[2-[4-(4-fluorophenyl)-1-pyrazinyl]ethyl]-2H-1,4-benzothiazin-3(4H)-one as prisms, m.p. 158°-159° C. The yield was 0.94 g (50.5%).

reactant | 2-(2-bromoethyl)-2H-1,4-benzothiazin-3(4H)-one | 1.36 g | BrCCC1SC2=C(NC1=O)C=CC=C2 | C10H10BrNOS
reactant | 1-(4-fluorophenyl)piperazine | 1.8 g | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 2-[2-[4-(4-fluorophenyl)-1-pyrazinyl]ethyl]-2H-1,4-benzothiazin-3(4H)-one | FC1=CC=C(C=C1)N1C=CN(C=C1)CCC1SC2=C(NC1=O)C=CC=C2 | C20H18FN3OS
